US07834194B2
3-(3-Chloro-6-hydroxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one
Dissolve 3-(3-chloro-6-methoxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexylpyrrolidin-2-one (1.122 g, 2.97 mmol) and 2-methyl-2 propene (0.5 mL) in dichloromethane (30 mL) and cool to 0° C. Slowly add boron tribromide (2.23 g, 8.91 mmol) and warm to room temperature. Stir for 1 hour and quench with ice. Extract with dichloromethane, dry with sodium sulfate, filter, and concentrate to give the title compound (1.121 g, 99%) as a light brown solid: Mass spectrum (apci) m/z=364.2 (M+H).

reactant | 3-(3-chloro-6-methoxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexylpyrrolidin-2-one | 2.97 mmol, 1.122 g | ClC=1C2=C(SC1CC1C(N(CC1)C1CCCCC1)=O)C=C(C=C2)OC | C20H24ClNO2S
reactant | 2-methyl-2 propene | 0.5 mL | CC(C)=C | C4H8
reactant | boron tribromide | 8.91 mmol, 2.23 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(3-Chloro-6-hydroxy-benzo[b]thiophen-2-ylmethyl)-1-cyclohexyl-pyrrolidin-2-one | 1.121 g, 99% | ClC=1C2=C(SC1CC1C(N(CC1)C1CCCCC1)=O)C=C(C=C2)O | C19H22ClNO2S
